Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / metformin
 
Attending: ___.
 
Chief Complaint:
Dyspnea on exertion
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ year old lady with history of HFpEF, severe hypertension, CKD
V, and IDDM who presents for evaluation of orthopnea and
headache.

Patient recently admitted ___ for heart failure exacerbation
as well as ___ on CKD from baseline 4.8 to ~6.4. At that time
patient Diuresed with boluses of IV furosemide 120 mg BID and
then transitioned to torsemide 40 mg upon discharge, weight was
213.4 lb at that time. She was also evaluated by nephrology who
felt that her ___ on CKD was secondary to worsening diabetic
nephropathy with some question of cardiorenal physiology and 
vein
mapping was completed with plan for outpatient follow up as it
was thought that patient may need HD. Course complicated by
episode of Mobitz 1 block for which beta-blockade was decreased.
She also was initated on hydralazine and home dose isosorbide
increased for control of BP, frequently >180.

Since last discharge, she has been unable to make it to any
follow up appointments because of insurance problems. She
recently got ___ and her granddaughter is making follow 
up
appointments. In this setting, she also ran out of her torsemide
on ___, as well as her calcitriol. Notes that she was still
taking her blood pressure medications.

For the past 4 days she has been experiencing worsening 
shortness
of breath and has been unable to lie flat. She is now unable to
go down stairs to laundry room, and when wandering around house
has to stop in the middle, which is different. She notes that 
she
has been sitting in a chair in the children's play room at 
night.
No chest pain or palpitations. She has had increasing ___ edema.
She does not weigh herself at home, usually knows when she is
volume up when her clothing becomes tighter. There has been no
recent dietary changes; both patient and daughter ___ and there
is no added salt. Occasionally will eat canned beans, but no 
deli
meat. Patient notes that she rarely misses medications because
her granddaughter who is an ___ will call her to confirm that she
is taking her medications- also family members use food from
___ as an incentive. However, she did run out of torsemide on
___. She notes that even prior to running out the her
medication, she had noticed decreased urine output to the same
dose. 

In addition, she has noticed an occipital headache, worse when
she is lying down. She feels her heart pounding in her head. No
associated nausea, vomiting, photophonophobia or weakness,
numbness, tingling. She has not been woken up from sleep by
headache. It is not worse with exertion. She notes that she
doesn't take her BP at home, but can tell when BP high because 
of
a "sluggish" feeling, as well as sensation of heart pounding in
head.

In the ED, initial VS were:  98.2 HR 72 BP 180/80 RR 20 97% RA
Exam notable for: "overloaded on exam"
ECG per my read: Sinus rate 80, slightly prolonged PR to 211,
LAD, LAE, LVH by voltage criteria, TWI in I, aVL, delayed R wave
progression. Overall similar to ___.

Labs showed:
WBC 6.1 Hgb 8.0 Plt 220
148 | 109 | 63
----------------
5.0 | 23 | 6.3 (last discharge 6.4)
Ca 9.1, Phos 4.4, Mg 2.2

Troponin 0.06 (baseline 0.06)
BNP 2289 (last admission ___)
U/A WBC 1, nitr neg, leuk neg, 300 protein

Imaging showed:
NCHCT:   
1. No acute intracranial process. 
2. Chronic infarcts in the left frontal lobe and right basal
ganglia. 

CXR:
Stable marked cardiomegaly.  Mild pulmonary vascular congestion.

Consults: None
Patient received:
- Hydralazine 75 mg 
- Carvedilol 12.5 mg
- Acetaminophen 1000 mg
- IV furosemide 20 mg

Transfer VS were: 162/61 RR 16 98% RA

REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as
per HPI
 
Past Medical History:
HFpEF
CKD Stage V (not yet on HD)
Stroke
DM2, insulin dependent, complicated by nephropathy, retinopathy, 
neuropathy
HTN
Empty sella syndrome
Surgical debridement of non-healing ulcers at ___ (___)
 
Social History:
___
Family History:
HTN, father had ___ disease, sister had stroke
 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: ___ 0155 Dyspnea: 3 RASS: 0 Pain Score: ___ 
GENERAL: Speaking in complete sentences, sitting upright in bed,
unable to lie flat
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD, JVP to earlobe at 50 degrees
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: Bibasilar crackles
GI: abdomen soft, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: 2+ pitting edema to level of knees, note on R leg
there is area of old blister round, 7x5 cm now well healed
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, CN II-XII intact, strength ___ in bilateral upper
and lower extremities, sensation grossly intact to light touch
throughout. Did not test FTN or pronator drift.

DISCHARGE PHYSICAL EXAM:
24 HR Data (last updated ___ @ 856)
    Temp: 98.3 (Tm 98.9), BP: 170/74 (142-170/67-79), HR: 78
(70-84), RR: 18 (___), O2 sat: 97% (94-98), O2 delivery: Ra,
Wt: 215.83 lb/97.9 kg  GENERAL: Speaking in complete sentences,
sitting upright in bed, unable to lie flat
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD, JVP to earlobe at 50 degrees
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: good air entry bilaterally. No appreciated crackles 
GI: abdomen soft, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: pitting edema improved today. Edema is below the 
level of knees; note on R leg there is area of old blister 
round, 7x5 cm now well healed
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, facial symmetry, moving all extremities with 
purpose.
 
Pertinent Results:
ADMISSION LABS:
___ 09:30PM BLOOD WBC-6.1 RBC-3.00* Hgb-8.0* Hct-27.0* 
MCV-90 MCH-26.7 MCHC-29.6* RDW-14.5 RDWSD-47.3* Plt ___
___ 09:30PM BLOOD Neuts-63.7 ___ Monos-8.3 Eos-3.3 
Baso-0.5 Im ___ AbsNeut-3.90 AbsLymp-1.46 AbsMono-0.51 
AbsEos-0.20 AbsBaso-0.03
___ 09:30PM BLOOD Glucose-109* UreaN-63* Creat-6.3* Na-148* 
K-5.0 Cl-109* HCO3-23 AnGap-16
___ 09:30PM BLOOD proBNP-2289*
___ 09:30PM BLOOD cTropnT-0.06* --> 0.07*
___ UA: Protein 300, Glucose 70, Trace blood

DISCHARGE LABS:
___ 08:50AM BLOOD WBC-5.5 RBC-3.30* Hgb-8.9* Hct-29.6* 
MCV-90 MCH-27.0 MCHC-30.1* RDW-14.6 RDWSD-47.6* Plt ___
___ 08:50AM BLOOD ___ PTT-30.5 ___
___ 08:50AM BLOOD Glucose-98 UreaN-60* Creat-5.9* Na-145 
K-4.5 Cl-105 HCO3-22 AnGap-18
___ 08:50AM BLOOD Calcium-9.4 Phos-4.2 Mg-1.8

IMAGING:
CXR ___: Stable marked cardiomegaly.  Mild pulmonary vascular 
congestion.

NCHCT IMPRESSION: 
1. No evidence for an acute intracranial abnormality. 
2. Chronic infarcts in the left frontal lobe, with expected 
evolution since ___.  Unchanged chronic infarct in the right 
basal ganglia and adjacent white matter. 
3. Expanded sella filled with fluid density is unchanged dating 
back to ___, possibly due to an arachnoid cyst or a defect in 
the diaphragm sella. 

CXR ___ IMPRESSION:  
Persistent marked cardiomegaly with mild pulmonary edema.  
Question underlying cardiomyopathy versus pericardial effusion. 

 
Brief Hospital Course:
SUMMARY:
====================
___ is a ___ old lady with history of heart 
failure with preserved ejection fraction (HFpEF), severe 
hypertension, chronic kidney disease (CKD) stage V, and type 2 
diabetes mellitus on insulin who presents with acute 
exacerbation of diastolic heart failure in the setting of 
running out of her home Torsemide. 

ACTIVE ISSUES:
====================
# Acute exacerbation of heart failure with preserved ejection 
fraction (___)
Ms. ___ presented on ___ with 4 days of orthopnea and 
lower extremity edema. BNP on ___ was 2289. Her weight on 
admission (___) was 102.47 Kg up from her dry weight of 96.8 
Kg on ___. The patient reports missing home torsemide due to 
insurance issues. TTE from ___ demonstrated ejection fraction 
of 75% and severe left ventricular hypertrophy. The patient 
received a total of 4 doses of 120mg IV Lasix over the course of 
this admission. For afterload management, we optimized her blood 
pressure management (see below). The patient responded well to 
IV Lasix despite poor kidney function. She is not a candidate 
for spironolactone given renal dysfunction. On ___, the 
patient was comfortable breathing and switched back to Torsemide 
40mg oral daily. Her discharge weight was 97 Kg. 

# Hypertension
Patient with persistent elevated blood pressure 
(170s-200s/70s-90s) despite being on 5 different 
antihypertensive medications. During this admission, we 
increased hydralazine dose to 100mg TID and carvedilol to 25mg 
BID. In addition, we continued home isosorbide mononitrate 120mg 
daily, amlodipine 10mg daily and doxazosin 4mg daily. We think 
that her hypertension is a result of CKD. 

# Chronic Kidney disease (CKD) stage V 
Patient with admission Cr of 6.3, similar to prior discharge. 
Her worsening kidney function is thought to be secondary to 
worsening diabetic nephropathy. Renal US from ___ without 
evidence of hydronephrosis. Vascular mapping was done on ___ 
as part of pre-HD planning. Quantiferon-TB gold test is pending. 
The patient is scheduled to follow up with nephrology and 
transplant surgery as an outpatient. 

CHRONIC ISSUES:
====================
# History of CVA, infarcts in the left frontal lobe and right 
basal ganglia: No residual weakness. Presumed ischemic given 
multiple risk factors. 
- Continued aspirin 81 mg
- Continued atorvastatin 80 mg

# Normocytic anemia: Recent baseline ~8.5. Most probably in the 
setting of chronic kidney disease. Her iron supplementation was 
changed from once daily to every other day based on new 
guidelines. 

# Type 2 Diabetes Mellitus
- Continued home lantus 10U + SSI. Last A1c 9.5% in ___

TRANSITIONAL ISSUES: 
====================
- Code status: Full (confirmed) 
- Contact:
Name of health care proxy: ___ 
Relationship: granddaughter 
Phone number: ___ 
___ on date: ___ 
- Admission weight: 102.47 kg
- Discharge weight: 96.8 kg
- Discharge creatinine: 5.9

#HFpEF 
[] Monitor weights 
[] Continue torsemide 40mg daily 
[] F/U with cardiology ___ 

#Hypertension: Blood pressure in 140s-160s/70s-90s mmHg on the 
current regimen
- Hydralazine 100mg TID 
- Carvedilol 25mg BID
- Isosorbide Mononitrate 120mg QD 
- Amlodipine 10mg QD
- Doxazosin 4mg QD
[] Please consider sending patient for a sleep study to assess 
for obstructive sleep apnea

#Chronic Kidney Disease (CKD) 
[] F/U nephrology outpatient 
[] F/U quantiferon gold test result 
[] Consider EPO as outpatient
[] Consider IV iron infusion 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Calcitriol 0.25 mcg PO 3X/WEEK (___) 
4. Carvedilol 12.5 mg PO BID 
5. Doxazosin 4 mg PO DAILY 
6. Ferrous Sulfate 325 mg PO DAILY 
7. HydrALAZINE 75 mg PO TID 
8. Isosorbide Mononitrate (Extended Release) 120 mg PO DAILY 
9. Loratadine 10 mg PO DAILY 
10. Torsemide 40 mg PO DAILY 
11. Glargine 10 Units Bedtime

 
Discharge Medications:
1.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*6 
2.  Carvedilol 25 mg PO BID 
RX *carvedilol 25 mg 1 tablet(s) by mouth twice daily Disp #*60 
Tablet Refills:*6 
3.  Ferrous Sulfate 325 mg PO EVERY OTHER DAY 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
every other day. Disp #*15 Tablet Refills:*6 
4.  HydrALAZINE 100 mg PO TID 
RX *hydralazine 100 mg 1 tablet(s) by mouth three times daily. 
Disp #*90 Tablet Refills:*6 
5.  amLODIPine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth daily. Disp #*30 
Tablet Refills:*6 
6.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*6 
7.  Calcitriol 0.25 mcg PO 3X/WEEK (___) 
RX *calcitriol 0.25 mcg 1 capsule(s) by mouth daily on ___, 
___ and ___ Disp #*12 Capsule Refills:*6 
8.  Doxazosin 4 mg PO DAILY 
RX *doxazosin 4 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*6 
9.  Glargine 10 Units Bedtime
RX *insulin glargine [Lantus U-100 Insulin] 100 unit/mL AS DIR 
10 Units before BED; Disp #*1 Vial Refills:*6
RX *insulin syringe-needle U-100 [Advocate Syringes] 30 gauge X 
___   Disp #*90 Syringe Refills:*0 
10.  Isosorbide Mononitrate (Extended Release) 120 mg PO DAILY 
RX *isosorbide mononitrate 120 mg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*6 
11.  Loratadine 10 mg PO DAILY 
RX *loratadine 10 mg 1 tablet(s) by mouth daily. Disp #*30 
Tablet Refills:*6 
12.  Torsemide 40 mg PO DAILY 
RX *torsemide 20 mg 2 tablet(s) by mouth daily. Disp #*60 Tablet 
Refills:*6 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Acute exacerbation of heart failure with preserved ejection 
fraction (HFpEF)

SECONDARY DIAGNOSIS
====================
Hypertension 
Chronic Kidney Disease (CKD) Stage V 
Cerebral vascular accident (CVA)
Anemia 
Type 2 Diabetes 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
  
It was a pleasure to care for you at the ___ 
___.
  
Why did you come to the hospital?  
- You came to the hospital because you experienced shortness of 
breath. You were found to have fluid overload (called heart 
failure exacerbation). 
  
What did you receive in the hospital?  
- You received an IV medication to remove extra fluid from your 
body. This class of medications is called diuretics. 
- We increased the dose of two of your blood pressure 
medications for a better control. 
- You were also seen by a kidney doctor as your kidney function 
has been getting worse over the past few years. We reached a 
stage now where you will need dialysis ___ soon. 
   
What should you do once you leave the hospital?  
- We have made some changes to your medication list, so please 
take them as prescribed. 
- Please weigh yourself everyday morning. If your weight goes up 
or down by over 3 lb in one day or 5 lb in 2 days, call your 
primary care doctor, as you may need to change your medication 
dosage.
- Please follow-up with your primary care physician (PCP), 
kidney doctor and transplant doctor as scheduled (see below) 
 
We wish you the best!  
Your ___ Care Team  

 
Followup Instructions:
___